US04264599
45 ml of trimethylchlorosilane are added to a mixture of 85 g of 2-ethoxy-5-(3-methoxy-2-pyridyloxymethyl)-2-methyl-1,3-dioxolane in 500 ml of methylene chloride and the mixture is stirred for one hour at 20°-30°. Complete evaporation under reduced pressure yields crude 2-(2-acetoxy-3-chloro-propoxy)-3-methoxy-pyridine in the form of an oil, which is used without purification.

reactant | trimethylchlorosilane | 45 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | 2-ethoxy-5-(3-methoxy-2-pyridyloxymethyl)-2-methyl-1,3-dioxolane | 85 g | C(C)OC1(OC(CO1)COC1=NC=CC=C1OC)C | C13H19NO5
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-acetoxy-3-chloro-propoxy)-3-methoxy-pyridine | C(C)(=O)OC(COC1=NC=CC=C1OC)CCl | C11H14ClNO4
